US04556660
A mixture of 3.2 parts of N-[1-[2-[(2-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine dihydrochloride, 3 parts of calcium oxide and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 20%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.1 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(4-pyrimidinylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine hemihydrate; mp. 133.9° C. (compound 94)

reactant | N-[1-[2-[(2-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine dihydrochloride | Cl.Cl.ClC1=NC=CC(=N1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2
reactant | calcium oxide | [O-2].[Ca+2]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(4-pyrimidinylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine hemihydrate | O.FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=NC=NC=C2.FC2=CC=C(C=C2)CN2C(=NC1=C2C=CC=C1)NC1CCN(CC1)CCNC1=NC=NC=C1 | InChI=1S/2C25H28FN7.H2O/c2*26-20-7-5-19(6-8-20)17-33-23-4-2-1-3-22(23)31-25(33)30-21-10-14-32(15-11-21)16-13-28-24-9-12-27-18-29-24;/h2*1-9,12,18,21H,10-11,13-17H2,(H,30,31)(H,27,28,29);1H2
